************************************************************************
* auCdl Netlist:
* 
* Library Name:  391_Project
* Top Cell Name: ADD1
* View Name:     schematic
* Netlisted on:  Mar  5 21:03:40 2013
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM

*.GLOBAL gnd!
+        vdd!

*.PIN gnd!
*+    vdd!

************************************************************************
* Library Name: Niko_Symbols
* Cell Name:    NOR
* View Name:    schematic
************************************************************************

.SUBCKT NOR A B GND Output VDD
*.PININFO A:I B:I GND:I VDD:I Output:O
MM3 Output B GND GND NMOS_VTG W=720.0n L=50n m=1
MM0 Output A GND GND NMOS_VTG W=720.0n L=50n m=1
MM2 net14 B VDD VDD PMOS_VTG W=1.56u L=50n m=1
MM1 Output A net14 VDD PMOS_VTG W=1.56u L=50n m=1
.ENDS

************************************************************************
* Library Name: Niko_Symbols
* Cell Name:    NAND
* View Name:    schematic
************************************************************************

.SUBCKT NAND A B GND Output VDD
*.PININFO A:I B:I GND:I VDD:I Output:O
MM2 Output B VDD VDD PMOS_VTG W=1.44u L=50n m=1
MM0 Output A VDD VDD PMOS_VTG W=1.44u L=50n m=1
MM3 net17 B GND GND NMOS_VTG W=1.63u L=50n m=1
MM1 Output A net17 GND NMOS_VTG W=1.63u L=50n m=1
.ENDS

************************************************************************
* Library Name: Niko_Symbols
* Cell Name:    INVERTER
* View Name:    schematic
************************************************************************

.SUBCKT INVERTER GND Input Output VDD
*.PININFO GND:I Input:I VDD:I Output:O
MM0 Output Input GND GND NMOS_VTG W=1.44u L=50n m=1
MM1 Output Input VDD VDD PMOS_VTG W=1.96u L=50n m=1
.ENDS

************************************************************************
* Library Name: Niko_Symbols
* Cell Name:    MUX
* View Name:    schematic
************************************************************************

.SUBCKT MUX A B GND Output S VDD
*.PININFO A:I B:I GND:I S:I VDD:I Output:O
XI5 A net9 GND net7 VDD / NAND
XI7 net7 net4 GND Output VDD / NAND
XI6 S B GND net4 VDD / NAND
XI8 GND S net9 VDD / INVERTER
.ENDS

************************************************************************
* Library Name: Niko_Symbols
* Cell Name:    XOR
* View Name:    schematic
************************************************************************

.SUBCKT XOR A B GND Output VDD
*.PININFO A:I B:I GND:I VDD:I Output:O
XI5 A net9 GND net7 VDD / NAND
XI7 net7 net4 GND Output VDD / NAND
XI6 B net015 GND net4 VDD / NAND
XI17 GND A net015 VDD / INVERTER
XI8 GND B net9 VDD / INVERTER
.ENDS

************************************************************************
* Library Name: Niko_Symbols
* Cell Name:    FA
* View Name:    schematic
************************************************************************

.SUBCKT FA A B Cin Cout GND S VDD
*.PININFO A:I B:I Cin:I GND:I VDD:I Cout:O S:O
XI3 net14 Cin GND S VDD / XOR
XI2 A B GND net14 VDD / XOR
XI6 net14 Cin GND net16 VDD / NAND
XI5 net16 net15 GND Cout VDD / NAND
XI4 A B GND net15 VDD / NAND
.ENDS

************************************************************************
* Library Name: 391_Project
* Cell Name:    ADD1
* View Name:    schematic
************************************************************************

.SUBCKT ADD1 A0N A1 B0 B0N B1 C1 S0 X1
*.PININFO A0N:I A1:I B0:I B0N:I B1:I S0:I C1:O X1:O
XI0 A0N B0N gnd! net18 vdd! / NOR
XI1 B1 net15 gnd! net17 S0 vdd! / MUX
XI2 net17 A1 net18 C1 gnd! X1 vdd! / FA
XI3 B1 B0 gnd! net15 vdd! / XOR
.ENDS

